US09334278B2
To a solution of N-tert-butyl-2-(1-methyl-1H-pyrazol-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (140 mg, 316 μmol) in dichloromethane (3.5 mL) was added trifluoroacetic acid (720 mg, 486 μL, 6.31 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained dissolved in dichloromethane (3 mL), methanol (1.5 mL), and ammonium hydroxide (0.65 mL) and the mixture stirred at room temperature for 1 h. The mixture was concentrated in vacuo then triturated with ether and water. The solid was collected by filtration then dried in vacuo to give N-tert-butyl-2-(1-methyl-1H-pyrazol-3-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (44 mg, 140 μmol, 45%) as a brown solid. 1H NMR (400 MHz, methanol-d) δ ppm: 8.07 (s, 1H), 7.93 (s, 1H), 7.81 (s, 1H), 7.35 (d, J=2.2 Hz, 1H), 6.32 (d, J=2.2 Hz, 1H), 3.67 (s, 3H), 1.35 (s, 9H); MS (EI/CI) m/z: 314.1 [M+H].

reactant | N-tert-butyl-2-(1-methyl-1H-pyrazol-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 316 μmol, 140 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=NN(C=C2)C)COCC[Si](C)(C)C | C21H33N7O2Si
reactant | trifluoroacetic acid | 6.31 mmol, 486 μL, 720 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanol | 1.5 mL | CO | CH4O
reactant | ammonium hydroxide | 0.65 mL | [OH-].[NH4+]
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-tert-butyl-2-(1-methyl-1H-pyrazol-3-ylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 140 μmol, 44 mg, 45% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=NN(C=C2)C | C15H19N7O
